US05608095
When R5 and R7 are both phenyl, about two molar equivalents of phenyl magnesium bromide is reacted with about one molar equivalent of dichloromethyl chloromethyl silane to give methyl diphenylchloromethyl silane.

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | dichloromethyl chloromethyl silane | ClC(Cl)[SiH2]CCl | C2H5Cl3Si
product | methyl diphenylchloromethyl silane | C[Si](CCl)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H15ClSi
